US06680313B2
The procedure of Synthesis Example 11b) was repeated, except that 907 mg of 7-acetylthioimidazo[5,1-b]thiazole and 1.27 g of (2R)-3-azido-2-triethylsilyloxy-1-propanol was used as the starting compound. Thus, 1.44 g of 7-((2R)-3-azido-2-triethylsilyloxypropyl)thioimidazo[5,1-b]thiazole was prepared.

reactant | 7-acetylthioimidazo[5,1-b]thiazole | 907 mg | C(C)(=O)SC=1N=CN2C1SC=C2 | C7H6N2OS2
reactant | (2R)-3-azido-2-triethylsilyloxy-1-propanol | 1.27 g | N(=[N+]=[N-])C[C@H](CO)O[Si](CC)(CC)CC | C9H21N3O2Si
product | 7-((2R)-3-azido-2-triethylsilyloxypropyl)thioimidazo[5,1-b]thiazole | 1.44 g | N(=[N+]=[N-])C[C@H](CSC=1N=CN2C1SC=C2)O[Si](CC)(CC)CC | C14H23N5OS2Si
